US07601856B2
The core molecule was synthesized by the following procedure. Potassium t-butoxide (5.9 g, 53 mmol) was added in portions to a cooled (5° C.) solution of cycloheptanone oxime (7.5 g, 53 mmol) in DMF (100 mL). The cooled reaction mixture was stirred for 50 minutes and then 1-chloro-4-nitrobenzene (7.9 g, 50 mmol) in DMF (25 mL) was added over 5 minutes. The reaction mixture was stirred at ˜10° C. for 30 minutes and then allowed to warm to room temperature and stirred for an additional 4 hours. The reaction mixture was concentrated under reduced pressure and the crude material was dissolved in ether and washed with water and brine. The organic phase was dried (Na2SO4) and concentrated to provide cyclooctanone O-(4-nitro-phenyl)-oxime (5.7 g). Cyclooctanone O-(4-nitro-phenyl)-oxime (5.3 g, 20 mmol) was dissolved in warm isopropanol (120 mL) and 12 N hydrochloric acid (6.8 mL) was added. The reaction mixture was heated to reflux for 5 hours and then cooled in an ice bath. The solid was collected by filtration, washed with water and cold isopropanol, and dried in an oven. The crude solid was purified by flash column chromatography (elution with 2% ethyl acetate-hexanes) to give 2-nitro-6,7,8,9,10,11-hexahydro-benzo[b]-cycloocta[d]furan (3.5 g, 14 mmol). A mixture of 2-nitro-6,7,8,9,10,11-hexahydro-benzo[b]-cycloocta[d]furan (3.4 g, 14 mmol) and Raney nickel (-4.1 g wet weight) in ethanol (170 mL) was hydrogenated at 50 PSI on a Parr shaker overnight. The mixture was filtered through Celite® and the filtrate was concentrated. The crude solid was purified by flash column chromatography (elution with 20% ethyl acetate-hexanes) to give 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (2.3 g). Mp 97-98° C.

reactant | Potassium t-butoxide | 53 mmol, 5.9 g | CC(C)([O-])C.[K+]
reactant | cycloheptanone oxime | 53 mmol, 7.5 g | C1(CCCCCC1)=NO | C7H13NO
reactant | 1-chloro-4-nitrobenzene | 50 mmol, 7.9 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | cyclooctanone O-(4-nitro-phenyl)-oxime | 5.7 g | [N+](=O)([O-])C1=CC=C(C=C1)ON=C1CCCCCCC1 | C14H18N2O3
